US07893062B2
rac-((3S,4R)-3-{[2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-(4-fluoro-phenyl)-pyrrolidine-1-carbonyl chloride
To a stirred solution of carbonic acid ditrichloromethyl ester (triphosgene) (31 mg, 0.10 mmol) in CH2Cl2 (5 ml) at 0° C., was added a solution of rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide (Intermediate VII-4), (100 mg, 0.21 mmol) and pyridine (0.02 ml, 0.22 mmol) in CH2Cl2 (2 ml) over 30 minutes. The temperature was raised to RT, and stirring was continued for 2 hours. The organic phase was washed with H2O, dried over Na2SO4. Purification by flash chromatography (SiO2, EtOAc/Hx 1:1) yielded 25 mg (22%) of the title compound as_colorless oil.

reactant | triphosgene | 0.10 mmol, 31 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide | 0.21 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)F)(C)C)(F)F | C23H23F7N2O
reactant | pyridine | 0.22 mmol, 0.02 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-{[2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-(4-fluoro-phenyl)-pyrrolidine-1-carbonyl chloride | 25 mg, 22% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N([C@@H]1CN(C[C@H]1C1=CC=C(C=C1)F)C(=O)Cl)C)(C)C)(F)F | C24H22ClF7N2O2
